US08232427B2
(R)-2-[(3-Methoxy-benzenesulfonyl)-(3-pyridin-3-yl-propyl)-amino]-3,3-dimethyl-butyric acid benzyl ester
To a solution of benzyl N-allyl-N-[(3-methoxyphenyl)sulfonyl]-3-methyl-D-valinate (222.6 mg, 0.5 mmol) in THF (1 mL) cooled to 0° C. is slowly added a 0.5M solution of 9-BBN (3.0 mL, 1.50 mmol) in THF. The mixture is slowly warmed to room temperature and stirred for two days. This solution is then added to a separate flask containing 3-bromopyridine, Pd(PPh3)4 (57.7 mg, 0.05 mmol), and potassium carbonate (276.2 mg, 2 mmol) in DMF (3.3 mL). The resulting mixture is heated to 70° C. and stirred overnight. The reaction is diluted with ethyl acetate and poured into water. The aqueous layer is extracted three times with ethyl acetate, and the combined organic extracts are washed with brine, dried with sodium sulfate, and concentrated. The crude residue is purified by column chromatography eluting with a gradient of 15-100% ethyl acetate in heptane to yield the desired product as a clear oil (130 mg, 59%). 1H NMR (CDCl3, 400 MHz); δ 8.48 (d, 1H, J=4), 8.43 (s, 1H), 7.58 (d, 1H, J=8), 7.35-7.33 (m, 3H), 7.29-7.27 (m, 1.5H), 7.25-7.23 (m, 1.5H), 7.19-7.18 (m, 2H), 7.05-7.03 (d, 1H, J=8), 4.87 (d, 1H, J=12), 4.69-4.66 (d, 1H, J=12H), 4.36 (s, 1H), 3.74 (s, 3H), 3.57 (m, 1H), 3.18 (m, 1H), 2.58 (t, 2H, J=4), 2.41 (m, 1H), 2.05 (m, 1H), 1.05 (s, 9H). Mass spectrum (511.5; M+1).

reactant | benzyl N-allyl-N-[(3-methoxyphenyl)sulfonyl]-3-methyl-D-valinate | 0.5 mmol, 222.6 mg | C(C=C)N([C@H](C(C)(C)C)C(=O)OCC1=CC=CC=C1)S(=O)(=O)C1=CC(=CC=C1)OC | C23H29NO5S
reactant | 9-BBN | 1.50 mmol, 3.0 mL | B1C2CCCC1CCC2 | C8H15B
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium carbonate | 2 mmol, 276.2 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | DMF | 3.3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.05 mmol, 57.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | (R)-2-[(3-Methoxy-benzenesulfonyl)-(3-pyridin-3-yl-propyl)-amino]-3,3-dimethyl-butyric acid benzyl ester | 130 mg, 59% | C(C1=CC=CC=C1)OC([C@@H](C(C)(C)C)N(CCCC=1C=NC=CC1)S(=O)(=O)C1=CC(=CC=C1)OC)=O | C28H34N2O5S
